US09120749B2
{6-Bromo-4-[4-((4-methylpiperazin-1-yl)methyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone
Following general procedure C, (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone (200 mg, 0.644 mmol) was reacted with 4-[(4-methylpiperazin-1-yl)methyl]aniline (200 mg, 0.966 mmol) to afford the desired product (173 mg, 56%) as a yellow solid: ESI MS m/z 479 [C25H27BrN4O+H]+.

reactant | (6-bromo-4-chloroquinolin-3-yl)(cyclopropyl)methanone | 0.644 mmol, 200 mg | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)Cl | C13H9BrClNO
reactant | 4-[(4-methylpiperazin-1-yl)methyl]aniline | 0.966 mmol, 200 mg | CN1CCN(CC1)CC1=CC=C(N)C=C1 | C12H19N3
product | {6-Bromo-4-[4-((4-methylpiperazin-1-yl)methyl)phenylamino]quinolin-3-yl}(cyclopropyl)methanone | 173 mg, 56% | BrC=1C=C2C(=C(C=NC2=CC1)C(=O)C1CC1)NC1=CC=C(C=C1)CN1CCN(CC1)C | C25H27BrN4O
